US05229516
A. Ethyl-1-propyl-1,3,4,9-tetrahydro-6-(phenylmethoxy)pyrano[3,4-b]indole-1-acetate
A solution of 5-benzyloxytryptophol (4.72 g, 17 mmol) and ethyl butyrylacetate (3.16 g, 20 mmol) in methylene chloride (75 ml) is treated dropwise with boron trifluoride etherate (3 mL) and stirred under nitrogen at room temperature overnight. The reaction mixture is diluted with methylene chloride (250 mL) and sequentially washed with 5% aqueous sodium bicarbonate (2×100 mL) and water (2×50 mL). The organic phase is dried (MgSO4), filtered, and evaporated to afford 7.0 g of a crude dark oil. Purification by flash column chromatography (ethyl acetate:hexane, 1:9 eluent) on silica gel (50:1 ratio, 230-400 mesh) affords the title compound (5.5 g, 79%) as a slightly amber oil homogeneous by TLC.

reactant | 5-benzyloxytryptophol | 17 mmol, 4.72 g | C1=CC=C(C=C1)COC2=CC3=C(C=C2)NC=C3CCO | C17H17NO2
reactant | ethyl butyrylacetate | 20 mmol, 3.16 g | C(CCC)(=O)CC(=O)OCC | C8H14O3
reactant | boron trifluoride etherate | 3 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | Ethyl-1-propyl-1,3,4,9-tetrahydro-6-(phenylmethoxy)pyrano[3,4-b]indole-1-acetate | 5.5 g, 79% | C(C)OC(CC1(OCCC2=C1NC1=CC=C(C=C21)OCC2=CC=CC=C2)CCC)=O | C25H29NO4
